US06541505B1
N-[2-(3-Cyano-1H-indol-5-yl)ethyl]-4-{2-[(2-hydroxy-ethyl)-N-methylamino]pyrimidin-4-yl}benzamide.
Using (2-hydroxy-ethyl)-N-methylamine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 441 (M+H)+.

reactant | (2-hydroxy-ethyl)-N-methylamine | OCCNC | C3H9NO
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-Cyano-1H-indol-5-yl)ethyl]-4-{2-[(2-hydroxy-ethyl)-N-methylamino]pyrimidin-4-yl}benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)N(C)CCO)=O | C25H24N6O2
